US09193693B2
A solution of methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (150 mg, 0.44 mmol, 1.00 equiv), 4-(3-chlorophenyl)piperidine hydrochloride (204.2 mg, 0.88 mmol, 2.00 equiv), and DIEA (194.8 mg, 1.51 mmol, 5.00 equiv) in DMF (4 mL) was placed in an 8-mL sealed tube and stirred overnight at 100° C. in an oil bath. The reaction was then quenched by the addition of water, then concentrated under vacuum. Purification via silica gel column (ethyl acetate/petroleum ether (1:100)) yielded 143.5 mg (64%) of methyl 3-(4-(3-chlorophenyl)piperidin-1-yl)-2-phenylquinoxaline-6-carboxylate as a yellow solid.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.44 mmol, 150 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | 4-(3-chlorophenyl)piperidine hydrochloride | 0.88 mmol, 204.2 mg, 2.00 equiv | Cl.ClC=1C=C(C=CC1)C1CCNCC1
reactant | DIEA | 1.51 mmol, 194.8 mg, 5.00 equiv | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | methyl 3-(4-(3-chlorophenyl)piperidin-1-yl)-2-phenylquinoxaline-6-carboxylate | 143.5 mg, 64% | ClC=1C=C(C=CC1)C1CCN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C27H24ClN3O2
